US07119201B2
4-(4-Iodophenoxy)methoxybenzene
4-(Phenoxy)methoxybenzene (7.40 g, 36.9 mmol) was dissolved in acetic acid and treated with iodine monochloride (7.50 g, 46.2 mmol) at 50° C. for 4 hours. The mixture was then concentrated and the residue taken up in methylene chloride. The solution was washed with 10% sodium sulfite solution, dried with magnesium sulfate, filtered and concentrated to a yellow solid. This was triturated with hexane, collected and dried to give 8.06 g of the title compound as a pale pink solid. GS-MS (m/z, EI): 326 [M]+.

reactant | 4-(Phenoxy)methoxybenzene | 36.9 mmol, 7.40 g | O(C1=CC=CC=C1)COC1=CC=CC=C1 | C13H12O2
reactant | iodine monochloride | 46.2 mmol, 7.50 g | ICl | ClI
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(4-Iodophenoxy)methoxybenzene | 8.06 g | IC1=CC=C(OCOC2=CC=CC=C2)C=C1 | C13H11IO2
